US06479536B1
N-(4-Methoxybenzyl)-3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine
By using N-[3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]-4-methoxybenzamide, the title compound was synthesized according to Example 2b. Yield: 75%. Melting point: 100-102° C. (Ethanol)

reactant | N-[3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]-4-methoxybenzamide | FC1=CC=C(C=C1)C1=C(OC2=C1C(=C(C(=C2C)C)NC(C2=CC=C(C=C2)OC)=O)C)C | C26H24FNO3
solvent | Ethanol | C(C)O | C2H6O
product | N-(4-Methoxybenzyl)-3-(4-fluorophenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-amine | Yield: 75% | COC1=CC=C(CNC=2C(=C(C3=C(C(=C(O3)C)C3=CC=C(C=C3)F)C2C)C)C)C=C1 | C26H26FNO2
